US07514470B2
B. 3-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]-2-methylpropanamide
To an ice-cold solution of 3-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]-2-methylpropanoic acid (0.050 g, 0.14 mmol) in CH2Cl2 (3 mL), under nitrogen was added oxalyl chloride (0.023 g, 0.18 mmol) and DMF (cat) and the mixture was heated at 42° C. for 30 min. Upon cooling, additional oxalyl chloride (0.014 g, 0.11 mmol) and DMF (cat.) were added and heated for 30 min. Upon cooling, NH4OH (30% aqueous solution, 5 mL) was added and the mixture stirred at rt. After 1 h, the mixture was partitioned between CH2Cl2 and water. The organic phase was washed with 0.1N HCl and brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by silica gel chromatography (1-5% MeOH—CH2Cl2 gradient) to give the title compound (0.044 g, 88% yield): 1H NMR (400 MHz, CDCl3) δ 7.58 (d, J=8.6 Hz, 1H), 7.01 (d, J=2.6 Hz, 1H), 6.89 (dd, J=8.6, 2.6 Hz, 1H), 5.70 (bs, NH), 5.54 (bs, NH), 4.22-4.08 (m, 2H), 3.85 (dd, J=15.4, 10.3 Hz, 1H), 3.54 (dd, J=15.4, 3.7 Hz, 1H), 2.80-2.70 (m, 1H), 1.23 (d, J=7.0 Hz, 3H).

reactant | 3-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]-2-methylpropanoic acid | 0.14 mmol, 0.050 g | C(#N)C1=C(C=C(C=C1)N(CC(C(=O)O)C)CC(F)(F)F)C(F)(F)F | C14H12F6N2O2
reactant | oxalyl chloride | 0.18 mmol, 0.023 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.11 mmol, 0.014 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH4OH | 5 mL | [NH4+].[OH-]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]-2-methylpropanamide | 0.044 g, 88% yield | C(#N)C1=C(C=C(C=C1)N(CC(C(=O)N)C)CC(F)(F)F)C(F)(F)F | C14H13F6N3O
